US08461328B2
A stirred solution of trans thioacetic acid S-(4-tert-butoxycarbonylamino-cyclohexyl) ester (1.31 g, 4.80 mmol) in methanol (31 mL) was treated with sodium methoxide (1.04 g, 19.2 mmol) followed by methyl iodide (0.45 mL, 7.2 mmol). The mixture was stirred at ambient temperature for 3 hours then diluted with ethyl acetate and water. The phases were separated and the aqueous phase was extracted with ethyl acetate (×2). The combined organic extracts were washed with 10% aqueous citric acid solution, saturated sodium hydrogen carbonate solution, and brine, dried with sodium sulphate and concentrated under vacuum to give crude product. Purification by column chromatography on silica gel (10% ethyl acetate in cyclohexane) gave 516 mg (44%) of trans (4-methylsulfanyl-cyclohexyl)-carbamic acid tert-butyl ester as a white solid. 1H NMR (400 MHz, CDCl3) δ: 4.36 (br s, 1H), 3.44 (br s, 1H), 2.72-2.62 (m, 1H), 2.40 (s, 3H), 2.09 (d, 6H), 1.45 (s, 9H), 1.24-1.10 (m, 2H).

reactant | trans thioacetic acid S-(4-tert-butoxycarbonylamino-cyclohexyl) ester | 4.80 mmol, 1.31 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)SC(C)=O | C13H23NO3S
reactant | sodium methoxide | 19.2 mmol, 1.04 g | C[O-].[Na+]
reactant | methyl iodide | 7.2 mmol, 0.45 mL | CI | CH3I
solvent | methanol | 31 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | trans (4-methylsulfanyl-cyclohexyl)-carbamic acid tert-butyl ester | 516 mg, 44% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)SC)=O | C12H23NO2S
